US08975400B2
4-(3,4-dichlorophenoxy)-3-fluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 3,4-dichlorophenol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
product | 4-(3,4-dichlorophenoxy)-3-fluorobenzaldehyde | ClC=1C=C(OC2=C(C=C(C=O)C=C2)F)C=CC1Cl | C13H7Cl2FO2
